US04872901
5-Benzylthio-1,3-dimethylpyrazole
A mixture of 2.0 g of ethyl 5-benzylthio-1,3-dimethylpyrazole-4-carboxylate, 9 ml of concentrated hydrochloric acid and 6 ml of water is refluxed for 11 hours. The reaction mixture is cooled to room temperature, extracted with chloroform. The extract is washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate. Chloroform is evaporated under reduced pressure to yield 1.5 g of the title compound as a colorless oil.

reactant | ethyl 5-benzylthio-1,3-dimethylpyrazole-4-carboxylate | 2.0 g | C(C1=CC=CC=C1)SC1=C(C(=NN1C)C)C(=O)OCC | C15H18N2O2S
reactant | hydrochloric acid | 9 ml | Cl | ClH
solvent | water | 6 ml | O | H2O
product | 5-Benzylthio-1,3-dimethylpyrazole | 1.5 g | C(C1=CC=CC=C1)SC1=CC(=NN1C)C | C12H14N2S
